US06291511B1
Step A: 4-Iodo-(L)-phenylalanine, tert-butyl ester hydrochloride.
To a suspension of N-Boc-4-iodo-(L)-phenylalanine (1.0 g, 2.56 mmol) in methylene chloride (7 mL) and cyclohexane (14 mL) were added t-butyl trichloroacetimidate (0.48 mL, 2.68 mmol) and boron trifluoride-etherate (48 μL). The reaction mixture was stirred for 5 hours at room temperature under a nitrogen atmosphere and then treated a second time with the same amounts of t-butyl trichloroacetimidate and boron trifluoride-etherate as above. After stirring overnight, a third addition was made, and the mixture was stirred a further 3 hours. The mixture was then filtered and the filtrate evaporated. The product was obtained pure by silica gel chromatography eluting with 10% diethyl ether in hexane; yield 650 mg. The product was treated with 1M HCl in ethyl acetate (7.3 mL) for 18 hours at room temperature. The mixture was evaporated and coevaporated several times with diethyl ether to afford the title compound; yield 522 mg.

reactant | N-Boc-4-iodo-(L)-phenylalanine | 2.56 mmol, 1.0 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)I)C(=O)O | C14H18INO4
reactant | t-butyl trichloroacetimidate | 2.68 mmol, 0.48 mL | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
reactant | boron trifluoride-etherate | 48 μL | B(F)(F)F.CCOCC
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
solvent | cyclohexane | 14 mL | C1CCCCC1 | C6H12
product | 4-Iodo-(L)-phenylalanine, tert-butyl ester hydrochloride | Cl.IC1=CC=C(C[C@H](N)C(=O)OC(C)(C)C)C=C1 | InChI=1S/C13H18INO2.ClH/c1-13(2,3)17-12(16)11(15)8-9-4-6-10(14)7-5-9;/h4-7,11H,8,15H2,1-3H3;1H/t11-;/m0./s1
